US07759385B2
To prepare the dihydrochloride the non-polar diastereoisomer of {4-[3-(1H-indol-3-yl)piperidine-1-yl]-1-phenylcyclohexyl}-dimethylamine (208 mg, 0.52 mmole) was dissolved in ethyl methyl ketone (5 ml) and chlorotrimethylsilane (165 μl, 1.3 mmole) was added. The solid thereby obtained was filtered off and dried. The non-polar {4-[3-(1H-indol-3-yl)piperidine-1-yl]-1-phenylcyclohexyl}-dimethylamine dihydrochloride was thereby obtained as a colourless solid with an m.p. of 188°-190° C. in a yield of 245 mg (100%) (Example 9).

reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
reactant | {4-[3-(1H-indol-3-yl)piperidine-1-yl]-1-phenylcyclohexyl}-dimethylamine | 0.52 mmole, 208 mg | N1C=C(C2=CC=CC=C12)C1CN(CCC1)C1CCC(CC1)(C1=CC=CC=C1)N(C)C | C27H35N3
reactant | chlorotrimethylsilane | 1.3 mmole, 165 μl | Cl[Si](C)(C)C | C3H9ClSi
solvent | ethyl methyl ketone | 5 ml | CC(=O)CC | C4H8O
product | {4-[3-(1H-indol-3-yl)piperidine-1-yl]-1-phenylcyclohexyl}-dimethylamine dihydrochloride | Cl.Cl.N1C=C(C2=CC=CC=C12)C1CN(CCC1)C1CCC(CC1)(C1=CC=CC=C1)N(C)C | InChI=1S/C27H35N3.2ClH/c1-29(2)27(22-10-4-3-5-11-22)16-14-23(15-17-27)30-18-8-9-21(20-30)25-19-28-26-13-7-6-12-24(25)26;;/h3-7,10-13,19,21,23,28H,8-9,14-18,20H2,1-2H3;2*1H
